US06693116B2
4-Bromo-N-(5-methoxy-8-phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-benzamide
To a solution of 24 mg (0.1 mmol) 5-methoxy-8-phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amine in 1 ml dioxane was added 0.4 ml (0.4 mmol) of a 1 M solution of AlMe3 in toluene and allowed to stir for 1 h at room temperature. 86 mg (0.4 mmol) 4-bromo-phenyl carboxylic acid methyl ester in I ml dioxane was added and the mixture was stirred for 48 h at 90° C. 0.5 ml 1N HCl aq. was added and the mixture was evaporated to dryness. The residue was taken up in 1.5 ml formic acid and 0.5 ml methanol and subjected to reversed phase HPLC chromatography eluting with a water/acetonitrile gradient. Evaporation of the eluents yielded 6 mg (15%) of the title compound. MS m/e (%): 423.3 (M+H+, 100).

reactant | 5-methoxy-8-phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl-amine | 0.1 mmol, 24 mg | COC1=CC=C(C=2N1N=C(N2)N)C2=CC=CC=C2 | C13H12N4O
reactant | AlMe3 | C[Al](C)C
reactant | 4-bromo-phenyl carboxylic acid methyl ester | 0.4 mmol, 86 mg | COC(=O)C1=CC=C(C=C1)Br | C8H7BrO2
reactant | HCl | 1N, 0.5 ml | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | ml | O1CCOCC1 | C4H8O2
product | 4-Bromo-N-(5-methoxy-8-phenyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-benzamide | 6 mg, 15% | BrC1=CC=C(C(=O)NC2=NN3C(C(=CC=C3OC)C3=CC=CC=C3)=N2)C=C1 | C20H15BrN4O2
